US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pentane-1,5-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and pentane-1,5-diamine. MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CDCl3) δ ppm 7.96 (d, J=7.6 Hz, 1 H), 7.54 (d, J=6.8 Hz 1 H), 7.42 (m, 2 H), 7.30 (d, J=6.4 Hz, 1 H), 7.21 (m, 2 H), 5.81 (s, 1 H), 5.03 (s, 2 H), 4.61 (m, 2 H), 3.49 (brs, 2 H), 3.19 (m, 2 H), 2.71 (d, J=6.40 Hz, 2 H), 2.94 (m, 2 H), 2.34 (s, 3 H), 1.61 (s, 2 H), 1.49 (m, 4 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | pentane-1,5-diamine | C(CCCCN)N | C5H14N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pentane-1,5-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCCCN)C)=O | C24H30N4O2S
